US07232824B2
Preparation of Boc-4-amino-3-picoline:
3-Methyl-4-aminopyridine (20.00 g, 0.185 mol) in dry THF (150 mL) was added a solution of Di-tert-butyl dicarbonate (Acros, 97% purity) (45.80 g, 0.203 mol) in dry THF (50 mL). The resultant pale yellow solution was left stirred at room temperature for 3 hours before being evaporated. The solid that resulted was suspended in hexane (200 mL) and filtered. The solid was washed further with hexane (4×200 mL) to remove last traces of excess reagent, and dried under high vacuum. The product was a yellow crystalline solid (29.93 g, 78% yield).

reactant | 3-Methyl-4-aminopyridine | 0.185 mol, 20.00 g | CC=1C=NC=CC1N | C6H8N2
reactant | Di-tert-butyl dicarbonate | 0.203 mol, 45.80 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | hexane | 200 mL | CCCCCC | C6H14
product | Boc-4-amino-3-picoline | 29.93 g, 78% yield | C(=O)(OC(C)(C)C)C1=NC=CC(=C1C)N | C11H16N2O2
